US04556660
A mixture of 7.5 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-methoxyphenyl)methyl]-1H-benzimidazol-2-amine and 225 parts of a hydrobromic acid solution 48% in water was stirred and heated over weed-end. After cooling, the precipitated product was filtered off and dried, yielding 7.3 parts (57%) of 4-[[2-[[1-(2-aminoethyl)-4-piperidinyl]amino]-1H-benzimidazol-1-yl]methyl]phenol trihydrobromide monohydrate; mp. >250° C. (intermediate 139).

reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-methoxyphenyl)methyl]-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)OC)C=CC=C2 | C22H29N5O
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 4-[[2-[[1-(2-aminoethyl)-4-piperidinyl]amino]-1H-benzimidazol-1-yl]methyl]phenol trihydrobromide monohydrate | 57% | O.Br.Br.Br.NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)O)C=CC=C2 | InChI=1S/C21H27N5O.3BrH.H2O/c22-11-14-25-12-9-17(10-13-25)23-21-24-19-3-1-2-4-20(19)26(21)15-16-5-7-18(27)8-6-16;;;;/h1-8,17,27H,9-15,22H2,(H,23,24);3*1H;1H2
